US04604396
To a solution of sodium metal (20 mg) in methanol (30 ml) was added the R(+)-enantiomer of [(5,6-dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)oxy]acetonitrile (1.0 g, 2.9 mMole). The reaction mixture was stirred for 1-1/2 hours in a dry nitrogen atmosphere then treated with dimethylamine hydrochloride (475 mg, 5.8 mMole) and stirring was continued for 21/2 hours. The methanol was evaporated in vacuo, the residue was dissolved in water, treated with 10N NaOH (1 ml), extracted with diethyl ether containing 10% tetrahydrofuran, washed with water and brine, dried over potassium carbonate and evaporated in vacuo. The residue was dissolved in a mixture of ethanol and diethyl ether, treated with ethanolic HCl, filtered under nitrogen and washed with diethyl ether to give 0.8 g of the R(+)-enantiomer of N,N-dimethyl-2-[(5,6-dichloro-9a-propyl-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]ethanimidamide hydrochloride hemihydrate.

reactant | sodium | 20 mg | [Na] | Na
reactant | [(5,6-dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)oxy]acetonitrile | 2.9 mMole, 1.0 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC#N)CCC)=O | C18H17Cl2NO2
reactant | dimethylamine hydrochloride | 5.8 mMole, 475 mg | Cl.CNC
solvent | methanol | 30 ml | CO | CH4O
product | N,N-dimethyl-2-[(5,6-dichloro-9a-propyl-3-oxo-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]ethanimidamide hydrochloride hemihydrate | O.Cl.CN(C(COC1=C(C(=C2C3=CC(CCC3(CC2=C1)CCC)=O)Cl)Cl)=N)C.CN(C(COC1=C(C(=C2C3=CC(CCC3(CC2=C1)CCC)=O)Cl)Cl)=N)C.Cl | InChI=1S/2C20H24Cl2N2O2.2ClH.H2O/c2*1-4-6-20-7-5-13(25)9-14(20)17-12(10-20)8-15(18(21)19(17)22)26-11-16(23)24(2)3;;;/h2*8-9,23H,4-7,10-11H2,1-3H3;2*1H;1H2
